US07989460B2
Chloroacetyl chloride (0.09 ml) was added dropwise to a solution of 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline (0.45 g), prepared as described in Example 13, and PS-DIEA resin (0.66 g) in dichloromethane (15 ml). After 1 hour at ambient temperature, methanol was added and the reaction mixture was filtered. Solvents were removed by evaporation in vacuum and the residue was triturated under diethyl ether, filtrated and dried to give 7-{2-[4-(chloroacetyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline (0.36 g) as a solid.

reactant | Chloroacetyl chloride | 0.09 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline | 0.45 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCNCC1)OC=1C=C2C=C(NC2=CC1)C | C24H27N5O3
reactant | DIEA | 0.66 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methanol | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-{2-[4-(chloroacetyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline | 0.36 g | ClCC(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C26H28ClN5O4
